US09193719B2
A mixture of 4-((6-aminopyridin-3-yl)oxy)-N-methylpicolinamide (0.4 g, 1.64 mmol) and potassium iodide (1.36 g, 8.19 mmol) in methylene iodide (5.46 mL) was treated dropwise with t-butylnitrite (1.95 mL, 16.4 mmol). The mixture was stirred overnight at RT, diluted with EtOAc (75 mL), and washed with 10% sodium carbonate (50 mL), 10% thiosulfate (50 mL), and brine (50 mL). The organics were dried over sodium sulfate, evaporated to dryness and purified by silica gel chromatography ((EtOAc/Hex) to afford 4-((6-iodopyridin-3-yl)oxy)-N-methylpicolinamide (0.214 g, 36.8%). 1H NMR (400 MHz, DMSO-d6): δ 8.78 (br d, J=5.6 Hz, 1H), 8.54 (d, J=5.6 Hz, 1H), 8.40 (d, J=3.0 Hz, 1H), 7.95 (d, J=8.6 Hz, 1H), 7.50 (dd, J=8.6, 3.1 Hz, 1H), 7.45 (d, J=2.6 Hz, 1H), 7.23 (dd, J=5.6, 2.7 Hz, 1H), 2.78 (d, J=4.9 Hz, 3H); MS (ESI) m/z: 356.0 (M+H+).

reactant | 4-((6-aminopyridin-3-yl)oxy)-N-methylpicolinamide | 1.64 mmol, 0.4 g | NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)NC | C12H12N4O2
reactant | potassium iodide | 8.19 mmol, 1.36 g | [I-].[K+]
reactant | t-butylnitrite | 16.4 mmol, 1.95 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | methylene iodide | 5.46 mL | C(I)I | CH2I2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 4-((6-iodopyridin-3-yl)oxy)-N-methylpicolinamide | 0.214 g, 36.8% | IC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)NC | C12H10IN3O2
